US07851484B2
5-Chloro-4-methyl-N3-(pentan-3-yl)pyridine-2,3-diamine.
To a room-temperature solution of 5-chloro-4-methylpyridine-2,3-diamine (200 mg, 1.27 mmol, 1.0 equiv) and 3-pentanone (400 uL, 3.78 mmol, 3.0 equiv) in THF (0.5 mL) and TFA (0.5 mL) was added sodium triacetoxyborohydride (807 mg, 3.81 mmol, 3.0 equiv) as a solid in one portion. The resulting mixture was allowed to stir overnight at room temperature. The reaction was then diluted with EtOAc and washed with saturated aq. NaHCO3. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by reverse phase HPLC to provide the title compound (49.4 mg, 17%). m/z=228.1 [M+H]+

reactant | 5-chloro-4-methylpyridine-2,3-diamine | 1.27 mmol, 200 mg, 1.0 equiv | ClC=1C(=C(C(=NC1)N)N)C | C6H8ClN3
reactant | 3-pentanone | 3.78 mmol, 400 uL, 3.0 equiv | CCC(CC)=O | C5H10O
reactant | sodium triacetoxyborohydride | 3.81 mmol, 807 mg, 3.0 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Chloro-4-methyl-N3-(pentan-3-yl)pyridine-2,3-diamine | 49.4 mg, 17% | ClC=1C(=C(C(=NC1)N)NC(CC)CC)C | C11H18ClN3
